US07541372B2
4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-N-(tetrahydro-pyran-4-yl)-benzamide
As described for example 78c, imidazol-1-yl-{4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-methanone (200 mg, 0.50 mmol) was converted using 4-aminotetrahydropyran instead of cyclopropylamine to the title compound (SiO2, heptane:ethyl acetate:dichloromethane:methanol=40:40:20:0 to 0:75:20:5, 100 mg, 46%) which was obtained a white solid. MS: m/e=431.3 [M+H]+.

reactant | imidazol-1-yl-{4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-methanone | 0.50 mmol, 200 mg | N1(C=NC=C1)C(=O)C1=CC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C22H15N5O3
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 4-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-N-(tetrahydro-pyran-4-yl)-benzamide | 100 mg, 46% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C1=CC=C(C(=O)NC2CCOCC2)C=C1 | C24H22N4O4
